US05525720
A mixture of 1-benzylinosine (3.58 g, 10 mmol) and trityl chloride (3.3 g, 12 mmol) in pyridine (50 mL is stirred overnight at room temperature. An additional amount of trityl chloride (3.3 g) is charged on the second and third days. The reaction is monitored by thin layer chromatography on silica gel plates using a mixture of chloroform and ethanol (10:1 v/v) as the developing solvent. After all the starting material is consumed, the mixture is concentrated in vacuo, and the residue coevaporated several times with toluene and ethanol, and then chromatographed on a silica column using chloroform-ethanol (19:1 v/v) as the eluent to give 5'-O-trityl-1-benzylinosine which is crystallized from ethanol: 5.40 g (90% yield), mp 208°-209° C. 1H NMR (Me2SO-d6) δ 3.20-3.24 (2H, m, H-5',5"), 4.10-4.29 (2H, m, H-3',4'), 4.61-4.67 (1H, m, H-2', collapsed to dd upon addition of D2O, J1',2' =5.6, J2',3' =5.0 Hz), 5.24 (2H, s, CH2Ph), 5.21-5.27 (1H, m, OH, exchangeable), 5.57 (1H, d, OH), 5.92 (1H, d, H-1'), 7.06-7.32 (2OH, m, Tr, CH2Ph), 8.23, 8.51 (1H each, H-2, H-8). Analyses: calculated for C26H32N4O5 : C, 71.98, H, 5.37, N, 9.33. Found: C, 71.86, H, 5.44, N, 9.18.

reactant | 1-benzylinosine | 10 mmol, 3.58 g | C(C1=CC=CC=C1)N1C(C=2N=CN([C@H]3[C@H](O)[C@H](O)[C@@H](CO)O3)C2N=C1)=O | C17H18N4O5
reactant | trityl chloride | 12 mmol, 3.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | trityl chloride | 3.3 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
reactant | chloroform | C(Cl)(Cl)Cl | CHCl3
reactant | ethanol | C(C)O | C2H6O
solvent | pyridine | N1=CC=CC=C1 | C5H5N
product | 5'-O-trityl-1-benzylinosine | 90% yield | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)OC[C@@H]1[C@H]([C@H]([C@@H](O1)N1C=NC=2C(=O)N(C=NC12)CC1=CC=CC=C1)O)O | C36H32N4O5
